US05412117
A mixture of 0.44 g of N-methyl-6-cyano-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-carbothioamide, 0.07 g of p-toluenesulfonic acid monohydrate, and 30 ml of toluene was heated at reflux for 10 hours. The solvent was removed by distillation, and the residue was purified by silica gel column chromatography (developing solution: CH2Cl2) to obtain 0.18 g of-N-methyl-6-cyano-2,2-dimethyl-2H-1-benzopyran-4-carbothioamide represented by formula shown below.

reactant | N-methyl-6-cyano-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-carbothioamide | 0.44 g | CNC(=S)C1C(C(OC2=C1C=C(C=C2)C#N)(C)C)O | C14H16N2O2S
reactant | p-toluenesulfonic acid monohydrate | 0.07 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | N-methyl-6-cyano-2,2-dimethyl-2H-1-benzopyran-4-carbothioamide | CNC(=S)C1=CC(OC2=C1C=C(C=C2)C#N)(C)C | C14H14N2OS
